US09388167B2
To (2R,3S)-2-(2,4-difluorophenyl)-3-(5-fluoropyrimidin-4-yl)-1-(1H-1,2,4-triazol-1-yl)butan-2-ol ((1R,4R)-7,7-dimethyl-2-oxobicyclo[2.2.1]heptan-1-yl)methanesulfonate (2.125 g) was added EtOH (3.8 mL) and water (3.8 mL). The slurry was heated to 32.5° C. which resulted in an almost colourless solution. This solution was then added in small aliquots (1 mL) to a chilled (0° C.) solution of sodium acetate (0.30 g) in water (4.1 mL) over 45 minutes. To the resulting slurry was then added a solution of EtOH (0.45 mL) and water (0.45 mL). The mixture was then allowed to stir at 2° C. for 30 minutes before water (4.5 mL) was gradually added over 20 minutes. The slurry was then stirred at 2° C. for 13.5 hours before the solids were isolated and reslurried at 0-5° C. twice in water (6.4 mL). The isolated solid was then dried at 45° C. for ˜48 hours at reduced pressure to give (2R,3S)-2-(2,4-difluorophenyl)-3-(5-fluoropyrimidin-4-yl)-1-(1H-1,2,4-triazol-1-yl)butan-2-ol as a white solid (0.969 g, 76% yield).

reactant | (2R,3S)-2-(2,4-difluorophenyl)-3-(5-fluoropyrimidin-4-yl)-1-(1H-1,2,4-triazol-1-yl)butan-2-ol ((1R,4R)-7,7-dimethyl-2-oxobicyclo[2.2.1]heptan-1-yl)methanesulfonate | 2.125 g | CC1([C@]2(C(C[C@H]1CC2)=O)CS(=O)(=O)O[C@](CN2N=CN=C2)([C@@H](C)C2=NC=NC=C2F)C2=C(C=C(C=C2)F)F)C | C26H28F3N5O4S
reactant | EtOH | 3.8 mL | CCO | C2H6O
reactant | sodium acetate | 0.30 g | C(C)(=O)[O-].[Na+]
reactant | EtOH | 0.45 mL | CCO | C2H6O
solvent | water | 4.1 mL | O | H2O
solvent | water | 6.4 mL | O | H2O
solvent | water | 4.5 mL | O | H2O
solvent | water | 0.45 mL | O | H2O
solvent | water | 3.8 mL | O | H2O
product | (2R,3S)-2-(2,4-difluorophenyl)-3-(5-fluoropyrimidin-4-yl)-1-(1H-1,2,4-triazol-1-yl)butan-2-ol | 0.969 g, 76% yield | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)C1=NC=NC=C1F)O | C16H14F3N5O
